US07265108B2
4-[4-[2-(2-Fluorophenyl)acetyl]piperidino]methyl-2H-pyridazin-3-one
After dissolving 74 mg of 2-(2-fluorophenyl)-1-[1-(3-methoxy-4-pyridazinylmethyl)piperidin-4-yl]ethanone in 2 ml of 5N hydrochloric acid, the mixture was heated to reflux for 4.5 hours. A 5N sodium hydroxide solution was added to the reaction solution for neutralization, and extraction was performed with dichloromethane. The organic layer was washed with saturated aqueous sodium bicarbonate solution and saturated brine and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, diethyl ether was added to the residue and the mixture was filtered to obtain the title compound (27 mg, 38% yield).

reactant | 2-(2-fluorophenyl)-1-[1-(3-methoxy-4-pyridazinylmethyl)piperidin-4-yl]ethanone | 74 mg | FC1=C(C=CC=C1)CC(=O)C1CCN(CC1)CC1=C(N=NC=C1)OC | C19H22FN3O2
reactant | sodium hydroxide | 5N | [OH-].[Na+]
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | hydrochloric acid | 5N, 2 ml | Cl | ClH
product | 4-[4-[2-(2-Fluorophenyl)acetyl]piperidino]methyl-2H-pyridazin-3-one | 27 mg, 38% yield | FC1=C(C=CC=C1)CC(=O)C1CCN(CC1)CC=1C(NN=CC1)=O | C18H20FN3O2
